US09371320B2
G) 3-(4-(1-acetylpiperidin-4-yl)phenyl)-1-(2,6-difluorophenyl)-1,5-dihydro-4H-pyrazolo[4,3-c]pyridin-4-one
To a solution of 1-(4-(4-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)piperidin-1-yl)ethanone (112 mg) in acetonitrile (3 mL) were added sodium iodide (73 mg) and chloro(trimethyl)silane (0.155 mL), and the mixture was stirred at 60° C. for 3 hr. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (silica gel, hexane/ethyl acetate to ethyl acetate/methanol). The obtained fraction was purified by HPLC (L-Column 2 ODS, mobile phase: water/acetonitrile (containing 10 mM ammonium carbonate)) to give the title compound (51 mg).

reactant | 1-(4-(4-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)piperidin-1-yl)ethanone | 112 mg | FC1=C(C(=CC=C1)F)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)C2CCN(CC2)C(C)=O | C26H24F2N4O2
reactant | sodium iodide | 73 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 0.155 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 3-(4-(1-acetylpiperidin-4-yl)phenyl)-1-(2,6-difluorophenyl)-1,5-dihydro-4H-pyrazolo[4,3-c]pyridin-4-one | 51 mg | C(C)(=O)N1CCC(CC1)C1=CC=C(C=C1)C1=NN(C2=C1C(NC=C2)=O)C2=C(C=CC=C2F)F | C25H22F2N4O2
